US07868009B2
Step a) Formation of (5R)-5-{2-[4-(4-fluorophenyl)piperazin-1-yl]-2-oxoethyl}-2,2-dimethyl-1,3-dioxolan-4-one
To a solution of [(4R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]acetic acid (3.48 g; 20.0 mmol; 1.0 eq.), TEA (6.07 g; 60.0 mmol; 3.0 eq.) in DCM (60 mL) was added HOBt (2.97 g; 22.0 mmol; 1.1 eq.) and the mixture was chilled to 0° C. EDC (4.6 g; 24.0 mmol; 1.2 eq.) was then added and the resulting reaction mixture was stirred for 15 min at 0° C. 1-(4-fluorophenyl)piperazine dihydrochloride (5.57 g; 22.0 mmol; 1.1 eq.) was added and the resulting reaction mixture was stirred at RT over night. Purification by flash chromatography (AcOEt/c-Hex: 50/50) gave the title compound as a colorless oil (5.12 g, 76%). M+ (ESI): 337.2. HPLC (Condition A): Rt: 2.5 min (HPLC purity: 97.4%).

reactant | [(4R)-2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl]acetic acid | 20.0 mmol, 3.48 g, 1.0 eq. | CC1(OC([C@H](O1)CC(=O)O)=O)C | C7H10O5
reactant | HOBt | 22.0 mmol, 2.97 g, 1.1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 24.0 mmol, 4.6 g, 1.2 eq.
reactant | 1-(4-fluorophenyl)piperazine dihydrochloride | 22.0 mmol, 5.57 g, 1.1 eq. | Cl.Cl.FC1=CC=C(C=C1)N1CCNCC1
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | (5R)-5-{2-[4-(4-fluorophenyl)piperazin-1-yl]-2-oxoethyl}-2,2-dimethyl-1,3-dioxolan-4-one | 5.12 g, 76% | FC1=CC=C(C=C1)N1CCN(CC1)C(C[C@@H]1C(OC(O1)(C)C)=O)=O | C17H21FN2O4
